US06562989B2
N-(4-methoxyphenyl)morpholine (Table 3, Entry 2)
According to the general procedure B, 4-chloroanisole (82 mg, 0.55 mmol) reacted with morpholine (46 mg, 0.53 mmol) using 1 mol % of catalyst and sodium tert-butoxide (63 mg, 0.60 mmol) at 70° C. for 27 h to give the title compound (97 mg, 95%) as a solid: 1H-NMR (400 MHz, CDCl3): δ 6.92-6.85 (m, 4H), 3.87 (t, 4H, J=4.8 Hz), 3.78 (s, 3H), 3.07 (t, 4H, J=4.8 Hz). 13C{1H}-NMR (100 MHz, CDCl3): δ 153.92, 145.60, 117.77, 114.47, 67.00, 55.52, 50.78. GC/MS(EI); m/z 193 (M+).

reactant | 4-chloroanisole | 0.55 mmol, 82 mg | ClC1=CC=C(C=C1)OC | C7H7ClO
reactant | morpholine | 0.53 mmol, 46 mg | N1CCOCC1 | C4H9NO
reactant | sodium tert-butoxide | 0.60 mmol, 63 mg | CC(C)([O-])C.[Na+]
product | N-(4-methoxyphenyl)morpholine | 97 mg, 95% | COC1=CC=C(C=C1)N1CCOCC1 | C11H15NO2
